US06414173B1
To a solution of 0.014 g (0.477 mmol) of 4-iodotoluene and 0.159 g (1.058 mmol) of phenyl trimethoxysilane in 10 mL of DMF was added 25 mg (0.043 mmol) of Pd(dba)2. Then 1.10 mL (1.10 mmol) of TBAF was added to the reaction mixture via syringe. The reaction mixture was degassed to remove oxygen via one freeze-pump-thaw cycle. The brown reaction was heated at 95° C. for 2 h. The resulting brown mixture was quenched by the addition of 50 mL of water; the aqueous layer was then extracted with 4×50 mL Et2O, and the combined organic layers were dried over MgSO4 and concentrated in vacuo. Purification of the residue by flash chromatography (30 mm, 16 cm, pentane) gave 17 mg (40%) of 4,4′-dimethylbiphenyl. This matched an authentic sample (purchased from Aldrich) by GC and TLC.

reactant | 4-iodotoluene | 0.477 mmol, 0.014 g | IC1=CC=C(C=C1)C | C7H7I
reactant | phenyl trimethoxysilane | 1.058 mmol, 0.159 g | C1(=CC=CC=C1)[Si](OC)(OC)OC | C9H14O3Si
reactant | TBAF | 1.10 mmol, 1.10 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
catalyst | Pd(dba)2 | 0.043 mmol, 25 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
product | 4,4′-dimethylbiphenyl | 17 mg, 40% | CC1=CC=C(C=C1)C1=CC=C(C=C1)C | C14H14
